US09085575B2
A solution of 350 mg (0.75 mmol) of 3-(4-methoxybenzyl)-5-(4-methoxyphenyl)-1-methyl-6,7-dihydro-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridine dissolved in 15 ml of trifluoroacetic acid is carried at 70° C. for 4 hours and then cooled to room temperature. The solvents are evaporated and then water is added. The product is extracted with ethyl acetate; the organic phases are dried on magnesium sulfate and concentrated. The residue is triturated in acetonitrile. The solid is filtered and then dissolved in 20 ml of anhydrous dichloroethane. The reaction medium is cooled to 0° C. before the slow addition of 7 ml (7 mmol) of a 1 M solution of boron tribromide in dichloromethane. The reaction medium is carried at reflux for 7 hours and then cooled again to 0° C. Methanol is added until the reaction medium is completely homogenized. The solvents are evaporated and then the residue is purified several times by silica gel chromatography (eluent: 95:5 DCM/MeOH) to yield 32 mg (15%) of 4-(1-methyl-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-5-yl)phenol in the form of a brown solid.

reactant | 3-(4-methoxybenzyl)-5-(4-methoxyphenyl)-1-methyl-6,7-dihydro-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridine | 0.75 mmol, 350 mg | COC1=CC=C(CN2N=C(C3=C2N=C(C=2CNC4=C(C32)C=CC=C4)C4=CC=C(C=C4)OC)C)C=C1 | C29H26N4O2
solvent | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(1-methyl-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-5-yl)phenol | 32 mg, 15% | CC1=NNC=2N=C(C=3C=NC4=C(C3C21)C=CC=C4)C4=CC=C(C=C4)O | C20H14N4O
